Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
Chief Complaint:
Change in mental status and fever
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ yo M with recent diagnosis of gastric CA s/p total 
gastrectomy of the Roux-en-Y reconstruction and feeding 
jejunostomy with known anastamosis site ulcer and h/o aspiration 
admitted with change in mental status and fever. Patient has 
been feeling poorly since he was discharged home from the 
hospital about 3 weeks ago. The patient has been following up 
closely with his PCP who added ___ fentanyl patch and zofran to 
help with pain and nausea. The patient went home and had 2 very 
good days. On the third day he was a bit out of it but stable 
and then on the fourth day he fell out of his chair and was 
disoriented. He presented to the ED ___ and was treated for a 
change in MS felt likely ___ oversedation with opiates. A CXR 
was sent which showed atelectasis but no infiltrate. He was 
taken off the oxycodone and fentanyl patch and sent home. 
 On the day of admission his wife noted his temp to be 102 and 
thought his MS had not improved very much so she called his pcp. 
In office temp was 96, patient was noted to have increased cough 
and sputum.  His PCP sent him here for workup of mental status 
change and fever. 
 On presentation he did not complain of pain just a diffuse 
malaise. He reports a cough and wretching with nausea that is 
responsive to zofran. He does not report SOB, chest pain, 
abdominal pain, or calf pain. He reports feeling hot off and on 
at homebut normally temp runs ___ except for the one at ___ 
yesterday. He reports feeling a bit dehydrated but not dizzy or 
light-headed. N one at home is sick and he has not traveled 
anywhere recently.

 
Past Medical History:
Per OMR:
HTN
Osteoarthritis of L knee and R shoulder - s/p TKR ___
Tonsillectomy
Appendectomy 
Bilateral cataract excision.
 
Social History:
___
Family History:
Family history is notable for a son who died of lung cancer.
 
Physical Exam:
VITALS: t 95.6 BP 141/61 HR 80 RR 16 O2sat 95% RA
GEN: Cachectic elderly M in NAD
HEENT: NC/AT No scleral icterus. MMM
NECK: No JVD. No LAD
LUNGS: Crackles ___ way up
HEART: RRR S1/S2 No M/R/G
ABD: Incision site without erythema, dehiscence, or discharge. 
Well-healed. Feeding tube in place with dressing 
clean/dry/intact and just replaced today by PCP. +BS. NT/ND. NO 
HSM 
EXTREM: No cyanosis, clubbing, edema
NEURO: Alert. Oriented X 3. CN ___ in tact. 

 
Pertinent Results:
___ 12:30PM   WBC-13.0* RBC-3.72* HGB-11.2* HCT-33.8* 
MCV-91 MCH-30.2 MCHC-33.2 RDW-15.5
___ 12:30PM   NEUTS-87.0* LYMPHS-6.2* MONOS-6.5 EOS-0.3 
BASOS-0.1
___ 12:30PM   PLT COUNT-268
___ 12:30PM   UREA N-17 CREAT-0.7 SODIUM-135 POTASSIUM-4.4 
CHLORIDE-93* TOTAL CO2-33* ANION GAP-13
___ 03:35PM   ___ PTT-32.4 ___
___ 03:35PM   ALBUMIN-3.4 CALCIUM-9.0 PHOSPHATE-3.2 
MAGNESIUM-1.9
___ 03:35PM   ALT(SGPT)-18 AST(SGOT)-19 LD(LDH)-166 ALK 
PHOS-71 TOT BILI-0.___XR: Pneumonia in the superior segment of the left lower lobe. 
Results 
communicated with Dr. ___ at 2:20 p.m. 

CT HEAD: No acute intracranial abnormality.

Assessment/Plan:
___ yo M with recent diagnosis of gastric CA s/p total 
gastrectomy of the Roux-en-Y reconstruction and feeding 
jejunostomy admitted with fever and inc cough productive of 
yellow sputum ___ PNA.
.
#. PNA: Patient with likely aspiration PNA. Clindmycin 300mg Q8H 
and then switched to levofloxacin which would cover both the PNA 
and the UTI. Blood cultures were pending at time of discharge 
and will be followed up by Dr. ___.
.
#. UTI: Urine culture showed E.Coli. Sensitivities are pending 
at time of discharge. He will be treated with Levofloxacin for 5 
days with your last dose on ___.
.
#. Aspiration: Speech and swallow saw him and said nectar thick 
liquids and pureed foods are ok but no medications PO. Refused 
video swallow to eval for silent aspiration as cause of PNA. 
Will go home on nectar thick liquids and pureed foods and have 
repeat swallow exam as outpatient when can tolerate barium.
.
#. Pain: Controlled with tylenol standing, fentanyl patch, and 
dilaudid PRN for pain while in house. 
.
#.Nausea: Exacerbated by constipation and increased rate of tube 
feedings. Responds well to Zofran and compazine. Will go home 
with scripts for this. Tube feeding goal rate was decreased to 
70mL/hour to help him tolerate this and still get sufficient 
caloric intake daily.
.
#. Anemia: Patient was noted to have a low hematocrit. Iron 
studies suggest anemia of chronic disease. Patient will follow 
up with his pcp regarding treatment and monitoring of this.
.
#. HTN: Patient had HTN while admitted. Started on previous dose 
of metoprolol 12.5mg BID with good effect. Will continue as 
outpatient.
.
#. FEN:Nutrtion recommened replete with fiber at 70mL/hour for 
24hours daily. He will follow up for further recommendations 
with the nutrition clinic at ___ as an outpatient. 
.
#. Prophylaxis: SC Heparin and PNeumoboots
.
#. Communication: With patient and dtr
.
#. Dispo: Full Code .
 
Medications on Admission:
Alternagel 1 tsp QID
Dilaudid-5 1 mg Q6H PRN
Atenolol 25mg PGT daily
Zofran 4mg Q6H
Lorazepam 0.5mg Per NG BID

 
Discharge Medications:
1. Metoprolol Tartrate 25 mg Tablet Sig: 0.5 Tablet PO BID (2 
times a day): Please take through the feeding tube.
Disp:*30 Tablet(s)* Refills:*2*
2. Hydromorphone 2 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for pain: Please take through the feeding tube.
Disp:*30 Tablet(s)* Refills:*0*
3. Acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q 8H 
(Every 8 Hours): Please take through the feeding tube.  
4. Lidocaine HCl 4 % Solution Sig: ___ MLs Mucous membrane Q6H 
(every 6 hours).
Disp:*500 mL* Refills:*2*
5. Fentanyl 12 mcg/hr Patch 72 hr Sig: One (1) Patch 72 hr 
Transdermal Q72H (every 72 hours).
Disp:*5 Patch 72 hr(s)* Refills:*2*
6. Lactulose 10 gram/15 mL Syrup Sig: Sixty (60) ML PO Q4H 
(every 4 hours): Please do not take if you are having diarrhea.
___ mL* Refills:*2*
7. Polyethylene Glycol 3350 100 % Powder Sig: Seventeen (17) g 
PO DAILY (Daily) as needed: Please do not take if you are having 
diarrhea.
Disp:*500 grams* Refills:*0*
8. Lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime) as needed for for sleep.  
9. Prochlorperazine Edisylate 5 mg/5 mL Syrup Sig: Ten (10) mg 
PO every six (6) hours as needed for nausea.
Disp:*60 ml* Refills:*1*
10. Benzonatate 100 mg Capsule Sig: One (1) Capsule PO TID (3 
times a day) as needed for cough.  
11. Ondansetron 4 mg Tablet, Rapid Dissolve Sig: One (1) Tablet, 
Rapid Dissolve PO Q8H (every 8 hours) as needed for nausea.  
12. Jevity Plus     Liquid Sig: Seventy (70) ml/hr PO once a 
day: Please increase tube feedings to 70mL/hour continuously for 
24hours daily.
Disp:*30 cans* Refills:*2*
13. Levofloxacin 750 mg Tablet Sig: One (1) Tablet PO Q24H 
(every 24 hours): Last dose on ___.
Disp:*5 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Aspiration PNA
Constipation

 
Discharge Condition:
The patient was afebrile, normotensive, not tachycaric, and 
having normal bowel movements when he was discharged.

 
Discharge Instructions:
You have been admitted with pneumonia. you have been treated 
with antibiotics for this infection. You should continue the 
antibiotics at home as outlined below.
 You have also had constipation leading to nausea while you were 
here. You should go home on stool softeners and laxatives as 
outlined below. For the nausea you should take the anti-nausea 
medicines you have at home.
 You were also started on a low dose patch for your pain. You 
should continue this patch and take dilaudid for breakthrough 
pain only.
 You have been given a swallowing evaluation that shows that you 
are stil having a little bit of difficult swallowing. You should 
only eat nectar thick liquids and soft solids. Pills should be 
taken through your feeding tube. 
 You had high blood pressures while you were hospitalized. You 
were re-started on your metoprolol and your blood pressures were 
more controlled. You should continue this as an outpatient.

Medication changes:
CHANGE Fentanyl Patch 25mg every 72 hours to Fentanyl Patch 
12.5mg every 72 hours
START: Clindamycin 300mg through feeding tube every 6 hours. 
Last dose on ___
START: Compazine 5mg through feeding tube every 6 hours as 
needed for nausea
START: Lactulose 60mL through feeding tube four times daily
START: Polyethylene glycol 17g through feeding tube daily.
START: Benzonatate 100mg through feeding tube every 8 hours as 
needed for cough.
START: Metoprolol 12.5mg via the feeding tube 2 times daily.

You should call your PCP or come back to the ED if you have 
fevers, shortness of breath, chest pain, severe abdominal pain, 
severe nausea/vomiting, bright red blood in your stools or 
tarry-looking stools. 
 
Followup Instructions:
___